US06207853B1
2-Isopropylidenesuccinic acid mono-ethyl ester
To a solution of of 17.4 g (0.1 mol) diethyl succinate and 9.8 g (0.1 mol) cyclohexanone in 100 ml tert-butanol was added 11.2 g (0.1 mol) potassium tert-butoxide in one portion. The mixture was allowed to stir at room temperature for 30 min. 10 ml of water were added and the solvent was removed under reduced pressure. The residue was dissolved in 100 ml water and transferred into a separation funnel. The solution was extracted twice with 50 ml ethyl acetate to remove neutral impurities, acidified with 6M HCl and extracted again twice with 20 ml of ethyl acetate. The combined organic phases were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 18.5 g (82%) of a thick yellow oil. 1H-NMR: 86% conjugated, 14% deconjugated product.

reactant | diethyl succinate | 0.1 mol, 17.4 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | cyclohexanone | 0.1 mol, 9.8 g | C1(CCCCC1)=O | C6H10O
reactant | potassium tert-butoxide | 0.1 mol, 11.2 g | CC(C)([O-])C.[K+]
reactant | water | 10 ml | O | H2O
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | 2-Isopropylidenesuccinic acid mono-ethyl ester | 18.5 g, 82% | C(C)OC(C(CC(=O)O)=C(C)C)=O | C9H14O4
